US07893099B2
(1R,2R,4R) and (1S,2S,4S)-4-[4-(3,5-Dimethyl-isoxazol-4-yl)-2-trifluoromethyl-benzenesulfonyl]-2-ethoxy-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide
The title compound was prepared in analogy to example 62 using 3,5-dimethyl-isoxazole-4-boronic acid instead of 2.4-difluorophenylboronic acid and (1R,2R,4R) and (1S,2S,4S)-4-(4-bromo-2-trifluoromethyl-benzenesulfonyl)-2-ethoxy-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide instead of (1R,2R,4R) and (1S,2S,4S)-4-(4-bromo-2-trifluoromethyl-benzenesulfonyl)-2-methoxy-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide. White solid. MS (EI): 526.0 (M+H)+.

reactant | 3,5-dimethyl-isoxazole-4-boronic acid | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | (1S,2S,4S)-4-(4-bromo-2-trifluoromethyl-benzenesulfonyl)-2-ethoxy-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@@H]1[C@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)Br)C(F)(F)F)OCC | C19H20BrF3N2O4S
reactant | (1S,2S,4S)-4-(4-bromo-2-trifluoromethyl-benzenesulfonyl)-2-methoxy-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@@H]1[C@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)Br)C(F)(F)F)OC | C18H18BrF3N2O4S
product | (1S,2S,4S)-4-[4-(3,5-Dimethyl-isoxazol-4-yl)-2-trifluoromethyl-benzenesulfonyl]-2-ethoxy-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@@H]1[C@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)C=1C(=NOC1C)C)C(F)(F)F)OCC | C24H26F3N3O5S
